US08492582B2
To a solution mixture of the obtained methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-(3-methoxyphenyl)benzoate (0.093 g) in methanol (2.0 mL) and ethyl acetate (2.0 mL), 10% palladium-carbon (0.050 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Chloroform was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-92% chloroform/methanol] to obtain 0.026 g of methyl 2-(2-hydroxy-5-(1-methylpiperidin-4-yl)benzamido)-4-(3-methoxyphenyl)benzoate as a white solid.

reactant | methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-(3-methoxyphenyl)benzoate | 0.093 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC(=CC=C2)OC)C=C(C=C1)C1CCN(CC1)C | C35H36N2O5
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2.0 mL | CO | CH4O
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.050 g | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(1-methylpiperidin-4-yl)benzamido)-4-(3-methoxyphenyl)benzoate | 0.026 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC(=CC=C2)OC)C=C(C=C1)C1CCN(CC1)C | C28H30N2O5
